US08663621B2
Freshly purchased copper iodide (CuI, approximately 1.97 g, approximately 12.2 mmol) was placed under N2 in a four-neck flask. Dry tetrahydrofuran (THF) (about 35 ml) was added, followed by N,N,N′,N′-tetramethylethylenediamine (about 2.76 ml). The mixture was stirred at room temperature until a green-yellow solution was obtained and then cooled to about −70° C., upon which a green suspension was formed. Isopropylmagnesium chloride solution (approximately 12.3 mmol; about 6.1 ml of approximately 2.0 M in tetrahydrofuran (THF) was added slowly, whereupon a green suspension became colorless then turned brown. The mixture was stirred at about −70° C. for about 1 h, then methyl 5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynoate (approximately 1.3 g, approximately 6.1 mmol) dissolved in dry THF (about 5-10 ml) was added. The resultant mixture was stirred at about −70° C. for about 3 h and quickly poured into an ice-cold mixture of saturated NH4Cl and hexanes/ether, approximately 5:1. The organic layer was separated, and the aqueous layer was extracted with hexanes/ether, approximately 5:1. The combined organic extracts were thoroughly washed with saturated NH4Cl solution until no blue color was seen. The organic extract was dried and concentrated. Flash chromatography with hexanes/ethyl acetate, approximately 5:1, afforded methyl 4-methyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-2-pentenoate (approximately 1.3 g, approximately 85%) as an approximately 92:8 mixture of E and Z isomers as judged from GC-MS analysis. GC-MS (E isomer, m/z, relative intensity): 172 (2), 171 (3), 155 (32), 142 (8), 141 (6), 139 (6), 95 (17), 85 (100), 67 (16), 57 (10), 55 (11), 43 (11), 41 (16). GC-MS (Z isomer, m/z, relative intensity): 172 (4), 155 (3), 154 (8), 142 (8), 141 (2), 139 (4), 123 (6), 95 (23), 85 (100), 67 (17), 57 (10), 55 (12), 43 (11), 41 (17). 1H NMR (400 MHz, C6D6, δ): 0.86 (d, J=8.0 Hz, E isomer), 0.86 (d, J=8.0 Hz, Z isomer), 1.20-1.42 (m, 4H), 1.55-1.62 (m, 2H), 1.70-1.82 (m, 1H), 2.18-2.31 (m, 1H), 3.02-3.18 (m, 2H), 3.41 (s, OCH3), 3.67-3.73 (m, 1H), 3.81-3.88 (m, 1H), 4.04-4.11 (m, 1H), 4.39 (septet, J=8.0 Hz, H-4, Z isomer), 4.52 (t, J=4.0 Hz, OCHO, Z isomer), 4.66 (t, J=4.0 Hz, OCHO, E isomer), 5.83 (br. s, H-2, E isomer), 5.86 (br. s, H-2, Z isomer). 13C NMR (101 MHz, C6D6, δ, E isomer): 20.0, 21.7 (two carbons), 26.3, 31.4, 32.9, 37.3, 50.9, 61.9, 67.3, 98.8, 115.1, 167.2, 167.8.

reactant | N,N,N′,N′-tetramethylethylenediamine | about 2.76 ml | CN(CCN(C)C)C | C6H16N2
reactant | Isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynoate | approximately 6.1 mmol, approximately 1.3 g | O1C(CCCC1)OCCC#CC(=O)OC | C11H16O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | about 5-10 ml | O1CCCC1 | C4H8O
catalyst | copper iodide | approximately 12.2 mmol, approximately 1.97 g | [Cu](I)I
solvent | tetrahydrofuran | about 35 ml | O1CCCC1 | C4H8O
product | methyl 4-methyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-2-pentenoate | approximately 1.3 g, approximately 85% | CC(C(=CC(=O)OC)CCOC1OCCCC1)C | C14H24O4
